US04788188
(1) 3-Acetyl-4-chloro-6-methylquinoline
3-Acetyl-4-hydroxy-6-methylquinoline (0.02 mol), prepared according to R. K. MAPARA and C. M. DESAI (CA 50 1011 b) is added to 40 ml of freshly distilled phosphorus oxychloride. The mixture is brought to reflux for 10 minutes. The solution is brought back to room temperature and then poured onto an ice/caustic soda mixture. After extraction with dichloromethane, the ogranic phase is decanted, washed until neutral, dried and concentrated. The 3-acetyl-4-chloro-6-methylquinoline (m.p. 145° C.) is used without further purification for the following stage.

reactant | 3-Acetyl-4-hydroxy-6-methylquinoline | 0.02 mol | C(C)(=O)C=1C=NC2=CC=C(C=C2C1O)C | C12H11NO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Acetyl-4-chloro-6-methylquinoline | C(C)(=O)C=1C=NC2=CC=C(C=C2C1Cl)C | C12H10ClNO
